### PR TITLE
feat(Wiener): prove `WeakPNT_AP_prelim`

### LINKED ISSUE #542: [WIENER]: Continuous extension of a Dirichlet series on arithmetic progressions
## Description

The claim here is that the Dirichlet series $\sum_{n \leq x: n=a\ (q)} \Lambda(n) / n^s$ has a continuous extension to the edge of the critical strip (after removing the pole at $s=1$).  The preceding corollary expands this out in terms of L-functions.  From known results each of the L-function terms have a continuous extension, and then one needs to sum.

## Blueprint

[Link](https://alexkontorovich.github.io/PrimeNumberTheoremAnd/blueprint/sect0002.html#WeakPNT-AP-prelim) (Proposition 2.4.1)

## Zulip

[Link](https://leanprover.zulipchat.com/#narrow/channel/423402-PrimeNumberTheorem.2B/topic/Prime.20number.20theorem.20in.20AP)

### PR DESCRIPTION
**Pull request by Tomodovodoo**
Co-authored-by: Aristotle Harmonic: <aristotle-harmonic@harmonic.fun>

Proved medium sized task WeakPNT with `Mathlib.NumberTheory.LSeries.PrimesInAP` as `ArithmeticFunction.vonMangoldt.LFunctionResidueClassAux`, suggested by GPT 5.2 xhigh as a provided solution to Aristotle.

Closes #542

### CODE REVIEW

**Comment by pitmonticone** [comment]
Thank you @Tomodovodoo. I'll review in a sec.

File: PrimeNumberTheoremAnd/Wiener.lean [hunk 1]
```diff
@@ -3990,7 +3990,21 @@ theorem WeakPNT_character
...
+            use ArithmeticFunction.vonMangoldt.LFunctionResidueClassAux (a : ZMod q)
+            have := ArithmeticFunction.vonMangoldt.eqOn_LFunctionResidueClassAux (q := q) (a := a)
+            simp_all +decide only [ge_iff_le, vonMangoldt.residueClass, ZMod.natCast_eq_natCast_iff', true_and]
+            convert this _ using 4
+            · aesop
+            exact (ZMod.isUnit_iff_coprime a q).mpr ha
+          exact hG
+        convert hG using 6
+        · simp +decide [ ZMod.natCast_eq_natCast_iff', Nat.mod_eq_of_lt ha' ]
+        · rw [ inv_eq_one_div, div_div ]
```
Comment (pitmonticone) [inline PrimeNumberTheoremAnd/Wiener.lean]: You can clean up this proof a little with: 


```suggestion
  have : NeZero q := NeZero.of_pos hq
  have hG : ∃ G : ℂ → ℂ, ContinuousOn G {s | 1 ≤ s.re} ∧ Set.EqOn G
      (fun s ↦ LSeries (fun n ↦ if (n : ZMod q) = a then Λ n else 0) s - (q.totient : ℂ)⁻¹ / (s - 1)) {s | 1 < s.re} := by
    use vonMangoldt.LFunctionResidueClassAux (a : ZMod q), vonMangoldt.continuousOn_LFunctionResidueClassAux (q := q) (a := a)
    have := vonMangoldt.eqOn_LFunctionResidueClassAux ((ZMod.isUnit_iff_coprime a q).mpr ha)
    convert this using 6; split <;> simp_all
  convert hG using 6
  · simp [ZMod.natCast_eq_natCast_iff', Nat.mod_eq_of_lt ha']
  · rw [inv_eq_one_div, div_div]
```

Comment (Tomodovodoo) [reply PrimeNumberTheoremAnd/Wiener.lean]: Oh neat! I'lllll review tomorrow, but indeed looks neater, no ugly aesop and simp +decide.
